US07741321B2
To a solution of [1-(4-bromo-benzenesulfonyl)-pyrrolidin-2-yl]-methanol (50.0 g, 0.16 mol) and 1H-imidazole (21.3 g, 0.31 mol) in CH2Cl2 (500 mL) was added tert-butylchlorodimethylsilane (35.5 g, 0.24 mol) in portions. After addition, the mixture was stirred for 1 hour at room temperature. The reaction was quenched with water (200 mL) and the separated aqueous layer was extracted with CH2Cl2 (100 mL×3). The combined organic layers were washed with brine, dried over Na2SO4 and evaporated under vacuum to give 1-(4-bromo-benzenesulfonyl)-2-(tert-butyldimethylsilanyloxymethyl)pyrrolidine (68.0 g, 99%). 1H NMR (300 MHz, CDCl3) δ 7.63-7.71 (m, 4H), 3.77-3.81 (m, 1H), 3.51-3.63 (m, 2H), 3.37-3.43 (m, 1H), 3.02-3.07 (m, 1H), 1.77-1.91 (m, 2H), 1.49-1.57 (m, 2H), 0.87 (s, 9H), 0.06 (d, J=1.8 Hz, 6H).

reactant | [1-(4-bromo-benzenesulfonyl)-pyrrolidin-2-yl]-methanol | 0.16 mol, 50.0 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)CO | C11H14BrNO3S
reactant | 1H-imidazole | 0.31 mol, 21.3 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 0.24 mol, 35.5 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-bromo-benzenesulfonyl)-2-(tert-butyldimethylsilanyloxymethyl)pyrrolidine | 68.0 g, 99% | BrC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)CO[Si](C)(C)C(C)(C)C | C17H28BrNO3SSi
